US09193741B2
Synthesis of 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-(1-(4-chlorophenyl)ethyl)thiazolo[5,4-d]pyrimidine
To a suspension of 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-(4-chlorophenylmethyl)thiazolo[5,4-d]pyrimidine (53 mg, 0.1 mmol) in DMF (2 ml) was added 1N NaOH (150 μl, 0.15 mmol) and Mel (7 μl, 0.11 mmol). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with dichloromethane and washed with water and brine. The organic layer was evaporated in vacuo and purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1/80), yielding the pure title compound (40 mg, 74%).

reactant | 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-(4-chlorophenylmethyl)thiazolo[5,4-d]pyrimidine | 0.1 mmol, 53 mg | NC=1N=C(C2=C(N1)SC(=N2)CC2=CC=C(C=C2)Cl)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C24H22Cl2N6O2S
reactant | NaOH | 0.15 mmol, 1N, 150 μl | [OH-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-amino-7-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-2-(1-(4-chlorophenyl)ethyl)thiazolo[5,4-d]pyrimidine | 40 mg, 74% | NC=1N=C(C2=C(N1)SC(=N2)C(C)C2=CC=C(C=C2)Cl)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C25H24Cl2N6O2S
